US08445684B2
To a solution of 1-(tert-butoxycarbonyl)-4-[2-(3-pyridylmethoxyl)ethyl]piperidine (413 mg, 1.29 mmol) in dioxane (0.2 mL) was added 4N HCl/dioxane (1 mL, 4.0 mmol). The solution was stirred overnight. After evaporation, the residue was dissolved in deionized water. EtOAc was used to wash the aqueous layer before the pH was altered to approx. 9-10. The aqueous layer was extracted three times with CH2Cl2, and the combined organic phases were dried over Na2SO4. After evaporation, 4-[2-(3-pyridylmethoxy)ethyl]piperidine (100 mg, 35%) was obtained as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 8.40 (m, 2H), 7.53 (d, 1H, J=7.6 Hz), 7.14 (m, 1H), 4.37 (s, 2H), 3.40 (t, 2H, J=6.0 Hz), 2.91 (d, 2H, J=12.0 Hz), 2.45 (t, 2H, J=11.6 Hz), 2.27 (s, 1H), 1.52 (d, 2H, J=12.4 Hz), 1.43 (m, 3H), 1.01 (m, 2H).

reactant | 1-(tert-butoxycarbonyl)-4-[2-(3-pyridylmethoxyl)ethyl]piperidine | 1.29 mmol, 413 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC=1C=NC=CC1 | C18H28N2O3
reactant | HCl dioxane | 4.0 mmol, 4N, 1 mL | Cl.O1CCOCC1
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | 4-[2-(3-pyridylmethoxy)ethyl]piperidine | 100 mg, 35% | N1=CC(=CC=C1)COCCC1CCNCC1 | C13H20N2O
